US07851473B2
Cyclopentyl 4-[(1,2-benzisoxazol-3-ylamino)carbonyl]piperazine-1-carboxylate
To a solution of N-1,2-benzisoxazol-3-ylpiperazine-1-carboxamide trifluoroacetate (200 mg, 0.555 mmol) and triethylamine (0.309 ml, 2.22 mmol) in tetrahydrofuran (4 ml) was added cyclopentyl chloroformate (124 mg, 0.833 mmol) under ice-cooling, and the mixture was stirred at room temperature for 1 hour. The reaction mixture was poured to water and extracted with ethyl acetate. The extract was washed with water, and the solvent was distilled off under reduced pressure. The residue was recrystallized from a mixed solvent of hexane and ethyl acetate to give 135 mg (67.8%) of the desired product as a solid.

reactant | N-1,2-benzisoxazol-3-ylpiperazine-1-carboxamide trifluoroacetate | 0.555 mmol, 200 mg | FC(C(=O)O)(F)F.O1N=C(C2=C1C=CC=C2)NC(=O)N2CCNCC2
reactant | triethylamine | 2.22 mmol, 0.309 ml | C(C)N(CC)CC | C6H15N
reactant | cyclopentyl chloroformate | 0.833 mmol, 124 mg | ClC(=O)OC1CCCC1 | C6H9ClO2
reactant | water | O | H2O
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
product | Cyclopentyl 4-[(1,2-benzisoxazol-3-ylamino)carbonyl]piperazine-1-carboxylate | 135 mg, 67.8% | O1N=C(C2=C1C=CC=C2)NC(=O)N2CCN(CC2)C(=O)OC2CCCC2 | C18H22N4O4
